US07115762B2
(3) Synthesis of 3-bromo-4-methyl-styrene
KHSO4 (0.55 g, 34 mmol), hydroquinone (0.142 g, 1.3 mmol), and 1-(3-bromo-4-methyl-phenyl)ethanol (17.2 g, 80 mmol) were added to a 25 mL round-bottom flask equipped with a distillation equipment. Under stirring, the system was vacuumed at 3 mm Hg and heated. A liquid product (13.6 g, 86% yield) was colleted at 102° C. (3 mm Hg). 1H NMR (300 MHz, CDCl3) δ 2.37 (3H, s), 5.23 (1H, d, J=10.9 Hz), 5.69 (1H, d, J=17.6 Hz), 6.60 (1H, dd, J=10.9, 17.6 Hz), 7.16 (1H, d, J=7.8 Hz), 7.21 (1H, d, J=7.8 Hz), 7.57 (1H, s); 13C NMR (75 MHz, CDCl3) δ 22.63, 114.32, 125.04, 125.09, 129.92, 130.76, 135.30, 137.11, 137.22 ppm; IR (neat) 3091 (m), 3063 (m), 3016 (s), 2985 (s), 2964 (m), 1899 (w), 1833 (w), 1701 (w), 1629 (m), 1602 (m), 1554 (s), 1492 (s), 1450 (s), 1380 (s), 1304 (w), 1278 (m), 1205 (m), 1037 (s), 989 (s), 914 (s), 833 (s), 854 (s), 826 (s) cm−1; MS m/z 197(M++1) 171, 169, 117, 115, 91, 89; HRMS calcd.: C9H9Br 195.9888, found: 195.9887.

reactant | KHSO4 | 34 mmol, 0.55 g | OS(=O)(=O)[O-].[K+]
reactant | 1-(3-bromo-4-methyl-phenyl)ethanol | 80 mmol, 17.2 g | BrC=1C=C(C=CC1C)C(C)O | C9H11BrO
catalyst | hydroquinone | 1.3 mmol, 0.142 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 3-bromo-4-methyl-styrene | 13.6 g, 86% yield | BrC=1C=C(C=C)C=CC1C | C9H9Br
